US05962682
In analogy to Example 121, by coupling 3-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonylamino)-benzoic acid with morpholine there was obtained N-[3-(2-hydroxy-ethoxy)-2-(3-methoxy-phenoxy)-5-(morpholine-4-carbonyl)-phenyl]-4-methylsulphanyl-benzenesulphonamide.

reactant | 3-(2-hydroxy-ethoxy)-4-(3-methoxy-phenoxy)-5-(4-methylsulphanyl-benzenesulphonylamino)-benzoic acid | OCCOC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)SC | C23H23NO8S2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-[3-(2-hydroxy-ethoxy)-2-(3-methoxy-phenoxy)-5-(morpholine-4-carbonyl)-phenyl]-4-methylsulphanyl-benzenesulphonamide | OCCOC=1C(=C(C=C(C1)C(=O)N1CCOCC1)NS(=O)(=O)C1=CC=C(C=C1)SC)OC1=CC(=CC=C1)OC | C27H30N2O8S2
